US06103762
(a) 1-bromo-3,5-di-tert-butyl-2-(methoxymethoxy)benzene
40.00 g (140.2 mmol) of 2,4-di-tert-butyl-6-bromophenol and 400 ml of DMF are introduced into a one liter three-necked flask. The solution obtained is cooled to 5-10° C., 4.70 g of sodium hydride are added and the mixture is stirred at 10° C. for 30 minutes. 11.7 ml (154.0 mmol) of chloromethyl methyl ether are then added dropwise and the reaction mixture is stirred for one hour at room temperature. The reaction mixture is poured into a 1N HCl/ethyl ether mixture and extracted with ethyl ether and the organic phase is separated by settling, dried over magnesium sulphate and evaporated. 46.00 g (100%) of the expected compound are collected in the form of an orange oil.

reactant | 2,4-di-tert-butyl-6-bromophenol | 140.2 mmol, 40.00 g | C(C)(C)(C)C1=C(C(=CC(=C1)C(C)(C)C)Br)O | C14H21BrO
reactant | sodium hydride | 4.70 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 154.0 mmol, 11.7 ml | COCCl | C2H5ClO
reactant | HCl ethyl ether | 1N | Cl.C(C)OCC
solvent | DMF | 400 ml | CN(C)C=O | C3H7NO
product | 1-bromo-3,5-di-tert-butyl-2-(methoxymethoxy)benzene | BrC1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)OCOC | C16H25BrO2
